US06632810B2
Synthesis of N,N′-bis[(5,6,7-trimethoxynaphthalen-2-yl)methyl]homopiperazine:
2-Chloromethyl-5,6,7-trimethoxynaphthalene (607 mg) and homopiperazine (108 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 2-Chloromethyl-5,6,7-trimethoxynaphthalene | 607 mg | ClCC1=CC2=CC(=C(C(=C2C=C1)OC)OC)OC | C14H15ClO3
reactant | homopiperazine | 108 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[(5,6,7-trimethoxynaphthalen-2-yl)methyl]homopiperazine | COC1=C2C=CC(=CC2=CC(=C1OC)OC)CN1CCN(CCC1)CC1=CC2=CC(=C(C(=C2C=C1)OC)OC)OC | C33H40N2O6
